US07018988B2
(2S,4EZ)-4-{[(3,4-dichlorobenzyl)oxy]imino}-N1-(3,5-dichlorophenyl)-N2-(6-quinolinyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, 1,3-dichloro-5-isocyanatobenzene, and 6-quinolinamine the title compound was obtained in 66% purity by LC/MS. MS(ESI+): m/z=617.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | 1,3-dichloro-5-isocyanatobenzene | ClC1=CC(=CC(=C1)N=C=O)Cl | C7H3Cl2NO
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S,4EZ)-4-{[(3,4-dichlorobenzyl)oxy]imino}-N1-(3,5-dichlorophenyl)-N2-(6-quinolinyl)-1,2-pyrrolidinedicarboxamide | ClC=1C=C(CON=C2C[C@H](N(C2)C(=O)NC2=CC(=CC(=C2)Cl)Cl)C(=O)NC=2C=C3C=CC=NC3=CC2)C=CC1Cl | C28H21Cl4N5O3
